US07547710B2
To a solution of 2-bromothiophene (2.7 g, 16 mmol) in dimethyl ether (30 ml) was added dropwise 1.6 M solution (8.9 ml) of n-butyllithium in n-hexane at −78° C. The reaction mixture was stirred at −78° C. for 30 min. and a solution of 2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}-N-methoxy-N-methylbenzamide (2.0 g, 6.4 mmol) in tetrahydrofuran (10 ml) was added dropwise. The reaction mixture was stirred at −78° C. for 30 min. and 0.1N hydrochloric acid was added. The mixture was extracted with ethyl acetate and the extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give (2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}phenyl)(thien-2-yl)methanone (0.98 g, yield 46%) as a yellow oil.

reactant | 2-bromothiophene | 16 mmol, 2.7 g | BrC=1SC=CC1 | C4H3BrS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}-N-methoxy-N-methylbenzamide | 6.4 mmol, 2.0 g | NC1=C(C(=O)N(C)OC)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C15H26N2O3Si
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | dimethyl ether | 30 ml | COC | C2H6O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}phenyl)(thien-2-yl)methanone | 0.98 g, yield 46% | NC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C(=O)C=1SC=CC1 | C17H23NO2SSi
